US04812483
Hexamethylphosphorous triamide (0.65 g) was added portionwise to a stirred solution of dibromodifluoromethane (0.42 g) in triglyme (3 cm3) whilst being maintained at 0° C. under an atmosphere of nitrogen. After a period of 10 minutes a pale yellow colouration was observed and a solution of 2,2-dimethyl-3-(4-fluoro-3-phenoxybenzyloxy)propan-1-al (0.3 g) in triglyme (2 cm3) was added. After stirring for a further two hours, whilst being maintained at 0° C., the reaction mixture was allowed to warm to the ambient temperature. When GLC examination of a worked-up portion of the reaction mixture showed an absence of further reaction, the reaction mixture was poured into diethylether and sequentially washed with water and brine. The solvent was removed by evaporation under reduced pressure to give a pale yellow liquid which was subjected to short-path distillation (boiling point 75° C./0.01 mm Hg). The residue was then subjected to column chromatography on silica gel using petroleum ether (boiling range 40°-60° C.) containing 5% by volume diethyl ether as eluent to give 2,2-dimethyl-1-(4-fluoro-3-phenoxybenzyloxy)-4,4-difluorobut-3-ene (0.045 g).

reactant | Hexamethylphosphorous triamide | 0.65 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
reactant | dibromodifluoromethane | 0.42 g | BrC(F)(F)Br | CBr2F2
reactant | 2,2-dimethyl-3-(4-fluoro-3-phenoxybenzyloxy)propan-1-al | 0.3 g | CC(C=O)(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)C | C18H19FO3
reactant | diethylether | C(C)OCC | C4H10O
solvent | triglyme | 3 cm3 | COCCOCCOCCOC | C8H18O4
solvent | triglyme | 2 cm3 | COCCOCCOCCOC | C8H18O4
product | 2,2-dimethyl-1-(4-fluoro-3-phenoxybenzyloxy)-4,4-difluorobut-3-ene | 0.045 g | CC(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)(C=C(F)F)C | C19H19F3O2
